US07144908B2
ii) 3-(2-Iodophenyl)imidazolidine-2,4-dione
A solution of ethyl N-{[(2-iodophenyl)amino]carbonyl}glycinate (6 g) in MeOH was treated with aqueous NaOH (2M, 17.5 ml) and stirred under nitrogen for 0.5 h at 20° C. The reaction mixture was quenched by adding aqueous 2M HCl (20 ml) and water. The white solid obtained was collected by filtration and then was dissolved in dioxane (30 ml) and treated with p-toluenesulfonic acid (750 mg). The mixture was heated and stirred at 100° C. for 16 h. The solvent was removed under reduced pressure, the residue was diluted in EtOAc and washed with water, brine and dried (MgSO4). The solvent was removed under reduced pressure and the residue was purified by chromatography on Biotage (40 g) eluting with dichloromethane:EtOAc (95:5 to 85:15) to give the title compound (1.68 g). LCMS RT=2.07 min.

reactant | ethyl N-{[(2-iodophenyl)amino]carbonyl}glycinate | 6 g | IC1=C(C=CC=C1)NC(=O)NCC(=O)OCC | C11H13IN2O3
reactant | NaOH | 2M, 17.5 ml | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | 3-(2-Iodophenyl)imidazolidine-2,4-dione | 1.68 g | IC1=C(C=CC=C1)N1C(NCC1=O)=O | C9H7IN2O2
